US09163027B2
2-{[2-({5,7-Diethyl-[1,2,4]triazolo[1,5-a]pyrimidin-2-yl}oxy)ethyl](4-fluorophenyl)amino}ethan-1-ol
A mixture of 2-[(4-fluorophenyl)(2-hydroxyethyl)amino]ethan-1-ol (200 mg, 1.01 mmol) and tetrahydrofuran (5 mL) was added to a 50 mL RBF under a nitrogen atmosphere with a magnetic stirring bar. The flask was cooled in an ice bath. Sodium hydride (60% dispersion in mineral oil) (40 mg, 1.01 mmol) was added (Effervescence). The reaction was warmed to room temperature and stirred for 10 minutes before 2-methanesulfonyl-5,7-diethyl-[1,2,4]-triazolo[1,5-a]pyrimidine (213 mg, 0.84 mmol) was added (Effervescence). Progress of the reaction was monitored by analytical HPLC with UV detection at 215 nm. The title compound eluted with a retention time of 4.1 min. After 90 minutes the reaction was concentrated then partitioned between dichloromethane (30 mL) and water (5 mL). The aqueous layer was extracted once more with dichloromethane (20 mL). The combined organic layers were dried (Na2SO4), filtered and concentrated. The title crude material was purified by silica gel column chromatography using a gradient elution of 1-10% isopropanol in dichloromethane to afford the title compound as an oil that crystallized upon standing overnight (135 mg, 43% yield). 1H NMR (DMSO-d6, 400 MHz) δ ppm: 7.09 (s, 1H), 6.99 (t, 2H), 6.78 (m, 2H), 4.69 (t, 1H), 4.48 (t, 2H), 3.77 (t, 2H), 3.53 (q, 2H), 3.43 (t, 2H), 3.01 (q, 2H), 2.82 (q, 2H), 1.32 (t, 3H), 1.26 (t, 3H). EM (calc.): 373.2; MS (ESI) m/e: 374.3 (M+H)+.

reactant | 2-[(4-fluorophenyl)(2-hydroxyethyl)amino]ethan-1-ol | 1.01 mmol, 200 mg | FC1=CC=C(C=C1)N(CCO)CCO | C10H14FNO2
reactant | Sodium hydride | 1.01 mmol, 40 mg | [H-].[Na+]
reactant | 2-methanesulfonyl-5,7-diethyl-[1,2,4]-triazolo[1,5-a]pyrimidine | 0.84 mmol, 213 mg | CS(=O)(=O)C1=NN2C(N=C(C=C2CC)CC)=N1 | C10H14N4O2S
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | 2-{[2-({5,7-Diethyl-[1,2,4]triazolo[1,5-a]pyrimidin-2-yl}oxy)ethyl](4-fluorophenyl)amino}ethan-1-ol | 43% yield | C(C)C1=NC=2N(C(=C1)CC)N=C(N2)OCCN(CCO)C2=CC=C(C=C2)F | C19H24FN5O2
